US04742052
To 3-hydroxymethylbenzylamine (1.37 g) in tetrahydrofuran (30 ml), a solution of S-p-nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine (6.2 g) in tetrahydrofuran (20 ml) was added at room temperature, followed by stirring for 1 hours. The resulting precipitates were removed by filtration and the filtrate was diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and evaporated in vacuo to give an oily residue which was then crystallized from diethyl etherdichloromethane to give 3-(p-nitrobenzyloxycarbonyl)aminomethylbenzyl alcohol.

reactant | 3-hydroxymethylbenzylamine | 1.37 g | OCC=1C=C(CN)C=CC1 | C8H11NO
reactant | S-p-nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 6.2 g | [N+](=O)([O-])C1=CC=C(COC(=O)SC2=NC(=CC(=N2)C)C)C=C1 | C14H13N3O4S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(p-nitrobenzyloxycarbonyl)aminomethylbenzyl alcohol | [N+](=O)([O-])C1=CC=C(COC(=O)NCC=2C=C(CO)C=CC2)C=C1 | C16H16N2O5
